US05213606
Preparation of 2-{p-[(3,5-Dichloro-2-pyridyl)oxy]phenoxy}propionaldehyde
A solution of ethyl 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy]propionate (1,455 g, 4.06 mol) in toluene (12 L) is cooled to -55° C. under a nitrogen atmosphere and diisobutylaluminum hydride (5.42 L of a 1.0M solution) is added over 2 hours. The reaction mixture is then stirred for 5 hours at -55° C. and glacial acetic acid (1.8 L) is added dropwise, while allowing the mixture to exotherm to 15° C. Heptane 2 L) is added and the mixture is washed sequentially with 5% hydrochloric acid solution, water, saturated sodium bicarbonate solution and water and concentrated in vacuo to obtain the title product as a yellow-orange liquid (1,159 g) which is identified by 1H NMR spectral analysis.

reactant | ethyl 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy]propionate | 4.06 mol, 1,455 g | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C16H15Cl2NO4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | acetic acid | 1.8 L | C(C)(=O)O | C2H4O2
reactant | Heptane | 2 L | CCCCCCC | C7H16
solvent | toluene | 12 L | C1(=CC=CC=C1)C | C7H8
product | 2-{p-[(3,5-Dichloro-2-pyridyl)oxy]phenoxy}propionaldehyde | 1,159 g | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C=O)C)C=C1 | C14H11Cl2NO3
